US07485375B2
An example of synthesizing 3,4-dihexoxythiophene as a thiophene monomer is shown below. 2 mL of sulfuric acid was added in an ethanol solution (800 mL) of thiodiglycolic acid (250 g, 1.67 mol) to prepare a reaction solution, then the reaction solution was refluxing under heating for 12 hr after stirring for 24 hr. Subsequently, substantially 500 mL of water and ethanol was removed from the reaction solution according to azeotropy. Furthermore, 400 mL of ethanol was added and after refluxing under heating for 20 hr, the reaction solution was added water to extract with ether. A layer of ether was dried with magnesium sulfate, followed by filtering and concentrating. The residue was distilled under reduced pressure of 200 Pa and a temperature of 100 to 110 degree centigrade, and thereby thiodiglycolic acid diethylester was obtained at a yield of 90 percent.

reactant | 3,4-dihexoxythiophene | C(CCCCC)OC1=CSC=C1OCCCCCC | C16H28O2S
reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
reactant | thiodiglycolic acid | 1.67 mol, 250 g | C(COCC(=O)O)(=S)O | C4H6O4S
solvent | ethanol | 800 mL | C(C)O | C2H6O
product | thiodiglycolic acid diethylester | yield of 90 percent | C(C)OC(COCC(=O)OCC)=S | C8H14O4S
